US08207168B2
A mixture of 6-[4-(1-cyclobutyl-piperidin-4-yloxy)-3,5-difluoro-phenyl]-4,5-dihydro-2H-pyridazin-3-one (137 mg, 0.37 mmol) and cesium carbonate (232 mg, 0.71 mmol) in dimethyl sulfoxide (5 mL) was heated at 130° C. 45 min. The mixture was cooled to rt and partitioned between water and methylene chloride. The aqueous layer was extracted twice with methylene chloride and the combined organics was washed with brine, dried (Na2SO4), filtered, and concentrated to provide a crude product. The crude product was purified by ISCO (40 g silica gel column) chromatography using 2% to 8% methanol in methylene chloride to 10% methanol containing 0.2% ammonium hydroxide in methylene chloride. The recovered product was dissolved in methylene chloride and washed with saturated aqueous sodium bicarbonate solution, brine, dried (Na2SO4), filtered, and concentrated. The product was crystallized using a mixture of ethanol, ethyl acetate, ether and hexane to give 6-[4-(1-cyclobutyl-piperidin-4-yloxy)-3,5-difluoro-phenyl]-2H-pyridazin-3-one (40 mg, 29%); Mp 195-197° C.; MS m/z 362 (M+H).

reactant | 6-[4-(1-cyclobutyl-piperidin-4-yloxy)-3,5-difluoro-phenyl]-4,5-dihydro-2H-pyridazin-3-one | 0.37 mmol, 137 mg | C1(CCC1)N1CCC(CC1)OC1=C(C=C(C=C1F)C=1CCC(NN1)=O)F | C19H23F2N3O2
reactant | cesium carbonate | 0.71 mmol, 232 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 6-[4-(1-cyclobutyl-piperidin-4-yloxy)-3,5-difluoro-phenyl]-2H-pyridazin-3-one | 40 mg, 29% | C1(CCC1)N1CCC(CC1)OC1=C(C=C(C=C1F)C=1C=CC(NN1)=O)F | C19H21F2N3O2
